US05350755
(B) Methyl 2-phenylamino-3-pyrazine carboxylate
A mixture of 9.5g. of methyl 2-bromo-3pyrazine carboxylate, 8.2g. of aniline, 0.5g. of ptoluene sulfonic acid and 100 ml. of water was stirred and refluxed for two hours. The reaction mixture was poured on ice, extracted with ethyl acetate, the organic extracts were dried and concentrated to yield an oil. The crude residue was eluted on a silica gel column with ethyl acetate-hexane (1:2) yielding the product of this example as a yellow solid, m.p. 72°-75° C.

reactant | methyl 2-bromo-3pyrazine carboxylate | BrC1=NC=CN=C1C(=O)OC | C6H5BrN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | ptoluene sulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O.O
solvent | water | O | H2O
product | Methyl 2-phenylamino-3-pyrazine carboxylate | C1(=CC=CC=C1)NC1=NC=CN=C1C(=O)OC | C12H11N3O2
